US08445684B2
(1R,2S)-2-[[5-[(2(S)-Azetidinyl)methoxy]-3-pyridyl]methyl]cyclopropylmethanol Hydrochloride
2M anhydrous HCl in ether is added to a stirred solution of (1R,2S)-2-[[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]methyl]cyclopropylmethanol in dry MeOH at 0° C. The mixture is stirred at room temperature overnight and the conversion of starting material confirmed by TLC. The above solution is concentrated and purified by HPLC to obtain the title compound.

reactant | HCl | 2M | Cl | ClH
reactant | (1R,2S)-2-[[5-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]methyl]cyclopropylmethanol | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)C[C@H]1[C@@H](C1)CO | C19H28N2O4
solvent | ether | CCOCC | C4H10O
solvent | MeOH | CO | CH4O
product | (1R,2S)-2-[[5-[(2(S)-Azetidinyl)methoxy]-3-pyridyl]methyl]cyclopropylmethanol Hydrochloride | Cl.N1[C@@H](CC1)COC=1C=C(C=NC1)C[C@H]1[C@@H](C1)CO | InChI=1S/C14H20N2O2.ClH/c17-8-12-5-11(12)3-10-4-14(7-15-6-10)18-9-13-1-2-16-13;/h4,6-7,11-13,16-17H,1-3,5,8-9H2;1H/t11-,12+,13+;/m1./s1
